US05030654
3-{1-[(cis-4-Benzyloxycarbonyl-cyclohexyl)carbamoyl]cyclopentyl}-2-(4-hydroxybutyl)propanoic acid t-butyl ester
2-(4-Benzyloxybutyl)-3-(1-carboxycyclopentyl)propanoic acid t-butyl ester (1 g, 2.48 mmole) was dissolved in ethanol (35 ml) and stirred at room temperature with 5% palladium on carbon catalyst (250 mg) under hydrogen at 50 p.s.i. (3.45 bar). After 3 hours the catalyst was removed by filtration and the solvent evaporated. The residue was dissolved in dichloromethane (40 ml) and cis-4-amino-cyclohexanecarboxylic acid benzyl ester p-toluene sulphonate salt (1.5 g, 3.70 mmole), 1-(3-dimethylaminopropyl)3-ethylcarbodiimide hydrochloride salt (1.22 g, 6.37 mmole), 1-hydroxybenzotriazole hydrate (0.97 g, 6.34 mmole) and triethylamine (1.28 g, 12.65 mmole) added. After 3 days at room temperature, the solvent was evaporated and the residue dissolved in ethyl acetate (50 ml). The solution was washed with water (50 ml), 1N hydrochloric acid (50 ml), water (50 ml) and saturated sodium hydrogen carbonate solution (50 ml), dried over magnesium sulphate and the solvent evaporated. The residue was chromatographed on silica gel eluting with a mixture of ethyl acetate and pentane (1:1 by volume) and the appropriate fractions combined and evaporated to give the title product as a pale orange oil (912 mg, 61%). Found: C,70.29; H,8.94; N,2.64. C31H47NO6 requires C,70.05; H,9.08; N,2.59%.

reactant | 2-(4-Benzyloxybutyl)-3-(1-carboxycyclopentyl)propanoic acid t-butyl ester | 2.48 mmole, 1 g | C(C)(C)(C)OC(C(CC1(CCCC1)C(=O)O)CCCCOCC1=CC=CC=C1)=O | C24H36O5
reactant | cis-4-amino-cyclohexanecarboxylic acid benzyl ester p-toluene sulphonate salt | 3.70 mmole, 1.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(C1=CC=CC=C1)OC(=O)[C@@H]1CC[C@@H](CC1)N
reactant | 1-(3-dimethylaminopropyl)3-ethylcarbodiimide hydrochloride salt | 6.37 mmole, 1.22 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 6.34 mmole, 0.97 g | O.ON1N=NC2=C1C=CC=C2
reactant | triethylamine | 12.65 mmole, 1.28 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 35 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 250 mg | [Pd] | Pd
product | 3-{1-[(cis-4-Benzyloxycarbonyl-cyclohexyl)carbamoyl]cyclopentyl}-2-(4-hydroxybutyl)propanoic acid t-butyl ester | 912 mg, 61% | C(C)(C)(C)OC(C(CC1(CCCC1)C(N[C@@H]1CC[C@@H](CC1)C(=O)OCC1=CC=CC=C1)=O)CCCCO)=O | C31H47NO6
